US08486952B2
The mixture of ethylene glycol (46.9 μL, 0.841 mmol), 1-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)pyrrolidin-3-one (Intermediate Gn) (132 mg, 0.421 mmol) and 4-methylbenzenesulfonic acid, H2O (8.00 mg, 0.042 mmol) in Benzene (1169 μL) was heated at reflux for 24 h in a Dean-stark apparatus. The resulting mixture was concentrated and purified by Prep-HPLC (Column: PHENOMENEX LUNA C18 30×100 mm, Solvent A=10 mM Ammonium Acetate in 95:5 H2O/ACN, Solvent B=10 mM Ammonium Acetate in 5:95 H2O/ACN. Flow rate: 40 ml/min, 30-100, 20 min) to get 7-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-1,4-dioxa-7-azaspiro[4.4]nonane (24 mg, 0.067 mmol, 15.94% yield). LC-MS (M+H)+=358.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.31 (2H, t, J=7.63 Hz), 7.20-7.25 (1H, m), 7.15 (2H, d, J=7.63 Hz), 4.21 (1H, dd, J=9.16, 6.10 Hz), 4.01-4.06 (4H, m), 3.89-3.97 (2H, m), 3.77-3.84 (2H, m), 3.26 (1H, ddd, J=15.03, 8.62, 5.95 Hz), 3.13 (1H, ddd, J=14.95, 8.85, 5.80 Hz), 2.53-2.63 (1H, m), 2.17 (2H, t, J=7.17 Hz), 2.03-2.12 (1H, m).

reactant | ethylene glycol | 0.841 mmol, 46.9 μL | C(CO)O | C2H6O2
reactant | 1-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)pyrrolidin-3-one | 0.421 mmol, 132 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)N2CC(CC2)=O | C17H16ClN3O
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | H2O | 0.042 mmol, 8.00 mg | O | H2O
solvent | Benzene | 1169 μL | C1=CC=CC=C1 | C6H6
product | 7-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-1,4-dioxa-7-azaspiro[4.4]nonane | 0.067 mmol, 24 mg, 15.94% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)N2CC1(OCCO1)CC2 | C19H20ClN3O2
